* R04E23 (cell 1/2, NEG_FRAC=.02) - extending TSTOP so R04E22's own
* question can actually be tested. R04E22 raised I_LIMIT to P24's own
* real 125A but found neither swept NEG_FRAC cell's own I_NEG target was
* reached by TSTOP=20u (inherited byte-identical from R04E3/R04E21,
* sized for the OLD I_LIMIT=10A regime): both cells parked at state 3
* (LOW_BUILD_NEGATIVE) with IL1 only reaching -2.215A by 20u, short of
* this cell's own 2.5A target. Because state 3's own exit rule never
* fired, R04E22's own actual question (does a correctly-scaled I_NEG
* avoid R04E3's own documented ZVS stall) was never actually tested,
* only prepared for. See BOUNDARY.md for the full scope statement,
* provenance and explicit limitations (Section 0/7: a narrow
* phase-1-only test, NOT a four-phase handoff and NOT a P24 periodicity
* claim).
*
* Literal starting template: experiments/track_B_zero_start_extension/
* R04E22_phase1_handoff_rescaled_ilimit/cases/r04e22_neg2pct.cir
* (read-only, never modified). Per BOUNDARY.md Section 2, the ONLY
* change relative to R04E22's own netlist is:
*   1. TSTOP extended from 20u to 100u (a 5x margin over a naive linear
*      extrapolation of R04E22's own observed rate) -- a pure
*      numerical-resolution/observation-window choice, not a physics
*      change.
*   2. The five .meas ... AT 20u measurements (STATE_FINAL, VOUT_FINAL,
*      VC1_FINAL, VC2_FINAL, VC3_FINAL) changed to AT 100u to match the
*      new stop time, so they measure the FINAL state at the new TSTOP
*      rather than an arbitrary earlier point.
* Everything else -- I_LIMIT=125, NEG_FRAC=.02, phase 1's own
* bootstrapped initial conditions (VC1_IC=35.85894624845418,
* IL1_IC=75.96527862548828), CFLY=3u, the 5-state .machine block's own
* rule structure, phases 2-4's own hardcoded R04E3 configuration, the
* WHEN-based .meas lines, the FROM 0 TO 20u window on IL1_MIN/IL1_MAX,
* .options -- is byte-identical to R04E22's own file.

.include ../../../../paper_locked/04_component_models/GS61008T_typical_params.lib
.param VIN=48 VOUT_REF=1 POUT_MODULE=250 NP=4 NM=4
.param LPHASE=1.466666666666667n CFLY=3u
.param COUT={8*220u+32*47u+64*22u} RLOAD={VOUT_REF*VOUT_REF/POUT_MODULE}
.param I_LIMIT=125 NEG_FRAC=.02 I_NEG={NEG_FRAC*I_LIMIT}
.param CH={GS61008T_COTR_0_50V} CL={2*GS61008T_COTR_0_50V}
.param RHS={GS61008T_RDS_TYP_25C} RLS={GS61008T_RDS_TYP_25C/2}
.param TRAIL=10p VGATE=5 RLDAMP=1u
* Phase-1 bootstrapped initial conditions, from R04E21's own Step 1
* (R04E17's own e17_div_f3_t68p61 cell re-run unmodified except one
* added .meas line, AT TSTOP=368.61us). VC1_IC = VC1_FINAL (matches
* R04E17's own already-published value to full precision, re-verified
* directly from the .raw trace this re-run produced). IL1_IC =
* IL1_AT_TSTOP (newly extracted; R04E17's own committed .meas set only
* had the IL1_MIN/IL1_MAX envelope, not this instantaneous value).
.param VC1_IC=35.85894624845418 IL1_IC=75.96527862548828

VRAIL vin 0 PWL(0 0 {TRAIL} {VIN} 20u {VIN})
CCO out 0 {COUT} ic=0
RLOAD_MAIN out 0 {RLOAD}
XMOD vin out 0 gh1_cmd gl1_cmd SCB4P_P24_EVENT

* Physical-event state machine. State 5 is a deliberate P24 handoff blocker.
.machine 1p
.state ENERGY 0
.state HS_OFF_COMMUTATE_LOW 1
.state LOW_FREEWHEEL_TO_ZERO 2
.state LOW_BUILD_NEGATIVE 3
.state COMMUTATE_HIGH_TO_ZVS 4
.state BLOCK_P24_HANDOFF_UNKNOWN 5
.rule ENERGY HS_OFF_COMMUTATE_LOW I(XMOD:L1)>=I_LIMIT
.rule HS_OFF_COMMUTATE_LOW LOW_FREEWHEEL_TO_ZERO V(xmod:x1)<=0
.rule LOW_FREEWHEEL_TO_ZERO LOW_BUILD_NEGATIVE I(XMOD:L1)<=0
.rule LOW_BUILD_NEGATIVE COMMUTATE_HIGH_TO_ZVS I(XMOD:L1)<=-I_NEG
.rule COMMUTATE_HIGH_TO_ZVS BLOCK_P24_HANDOFF_UNKNOWN V(vin,xmod:a1)<=0
.output (state_mon) state
.output (gh1_cmd) VGATE*(state==ENERGY)
.output (gl1_cmd) VGATE*((state==LOW_FREEWHEEL_TO_ZERO)+(state==LOW_BUILD_NEGATIVE))
.endmachine

RSTATE state_mon 0 1k
RGH gh1_cmd 0 1k
RGL gl1_cmd 0 1k

.meas tran T_ENERGY_END WHEN V(state_mon)=.5 RISE=1
.meas tran IL1_ENERGY_END FIND I(XMOD:L1) WHEN V(state_mon)=.5 RISE=1
.meas tran T_LOW_SIDE_ZVS WHEN V(state_mon)=1.5 RISE=1
.meas tran T_IL1_ZERO WHEN V(state_mon)=2.5 RISE=1
.meas tran T_NEG_TARGET WHEN V(state_mon)=3.5 RISE=1
.meas tran T_HIGH_SIDE_ZVS WHEN V(state_mon)=4.5 RISE=1
.meas tran STATE_FINAL FIND V(state_mon) AT 100u
.meas tran IL1_MIN MIN I(XMOD:L1) FROM 0 TO 20u
.meas tran IL1_MAX MAX I(XMOD:L1) FROM 0 TO 20u
.meas tran VOUT_FINAL FIND V(out) AT 100u
.meas tran VC1_FINAL FIND V(xmod:a1,xmod:x1) AT 100u
.meas tran VC2_FINAL FIND V(xmod:a2,xmod:x2) AT 100u
.meas tran VC3_FINAL FIND V(xmod:a3,xmod:x3) AT 100u

.options plotwinsize=0 reltol=1e-5 abstol=1e-9 chgtol=1e-16 solver=alt cshunt=1e-15
.save V(state_mon) V(gh1_cmd) V(gl1_cmd) V(out) V(xmod:a1) V(xmod:x1) V(xmod:a2) V(xmod:x2) V(xmod:a3) V(xmod:x3) V(vin,xmod:a1) V(xmod:a1,xmod:x1) V(xmod:a2,xmod:x2) V(xmod:a3,xmod:x3) I(XMOD:L1)
.tran 0 100u 0 1n UIC

.subckt SCB4P_P24_EVENT vin out g gh1_in gl1_in
* Controller is a plug-in: power connections below match the existing stage.
BGH1 gh1 g V=V(gh1_in,g)
BGL1 gl1 g V=V(gl1_in,g)
VGL2 gl2 g {VGATE}
VGH2 gh2 g 0
VGH3 gh3 g 0
VGH4 gh4 g 0
VGL3 gl3 g 0
VGL4 gl4 g 0

SH1 vin a1 gh1 g SWH
CH1 vin a1 {CH} ic=0
CS1 a1 x1 {CFLY} ic={VC1_IC}
CL1 x1 g {CL} ic=0
SL1 x1 g gl1 g SWL
L1 x1 out {LPHASE} Rser={RLDAMP} ic={IL1_IC}
SH2 a1 a2 gh2 g SWH
CS2 a2 x2 {CFLY} ic=0
SL2 x2 g gl2 g SWL
L2 x2 out {LPHASE} Rser={RLDAMP} ic=0
SH3 a2 a3 gh3 g SWH
CS3 a3 x3 {CFLY} ic=0
SL3 x3 g gl3 g SWL
L3 x3 out {LPHASE} Rser={RLDAMP} ic=0
SH4 a3 x4 gh4 g SWH
SL4 x4 g gl4 g SWL
L4 x4 out {LPHASE} Rser={RLDAMP} ic=0

RNUM_A1 a1 g 1Meg
RNUM_X1 x1 g 1Meg
RNUM_A2 a2 g 1Meg
RNUM_X2 x2 g 1Meg
RNUM_A3 a3 g 1Meg
RNUM_X3 x3 g 1Meg
RNUM_X4 x4 g 1Meg
.model SWH SW(Ron={RHS} Roff=1T Vt=2.5 Vh=0)
.model SWL SW(Ron={RLS} Roff=1T Vt=2.5 Vh=0)
.ends SCB4P_P24_EVENT
.end
